US04211548
Ethyl-N-[bis(phenylthio)phosphinothioylmethyl]-N-(benzyloxycarbonyl)glycine (2.3 g.) was dissolved in 10 ml. of 35% hydrobromic acid in acetic acid and stirred for approximately one hour. Diethyl ether was added to precipitate the hydrobromide salt of the desired compound. The hydrobromide salt was washed an additional three times with diethyl ether. The oily residue was then dissolved in benzene and treated with excess propylene oxide and the resulting solution concentrated in vacuo to yield ethyl-N-[bis(phenylthio)phosphinothioylmethyl]-glycine as an oil, ND25 =1.413.

reactant | Ethyl-N-[bis(phenylthio)phosphinothioylmethyl]-N-(benzyloxycarbonyl)glycine | 2.3 g | C(C)C(N(C(=O)OCC1=CC=CC=C1)CP(=S)(SC1=CC=CC=C1)SC1=CC=CC=C1)C(=O)O | C25H26NO4PS3
reactant | hydrobromic acid | Br | BrH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl-N-[bis(phenylthio)phosphinothioylmethyl]-glycine | C(C)N(CC(=O)O)CP(=S)(SC1=CC=CC=C1)SC1=CC=CC=C1 | C17H20NO2PS3
